US07652057B2
To a suspension of sodium hydride (0.023 g of a 50% dispersion in mineral oil) in DMF (2 mL) at 0° C. was added 4-chlorophenol (0.042 g). To this was added a solution of 5-bromomethyl-4-isopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one (0.10 g) in DMF (1 mL) and the reaction mixture was allowed to stir at ambient temperature for 18 hours. The reaction was then diluted with water and EtOAc. The phases were separated and the aqueous was extracted with further EtOAc. The combined organic phases were washed with further brine and dried with sodium sulfate. Filtration and evaporation of the volatiles in vacuo and purification of the residue via ISCO Combiflash chromatography (using EtOAc/heptane) afforded the 5-(4-chloro-phenoxymethyl)-4-isopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one (0.020 g) as a light yellow solid. MS (ESI+): 357.1 [M+H]+).

reactant | sodium hydride | [H-].[Na+]
reactant | 4-chlorophenol | 0.042 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 5-bromomethyl-4-isopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one | 0.10 g | BrCC1=C(C(N(N1C)C1=CC=CC=C1)=O)C(C)C | C14H17BrN2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(4-chloro-phenoxymethyl)-4-isopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one | 0.020 g | ClC1=CC=C(OCC2=C(C(N(N2C)C2=CC=CC=C2)=O)C(C)C)C=C1 | C20H21ClN2O2
